US07557107B2
Step A: 1-Methoxy-cyclopropanecarboxylic acid methyl ester
1-Hydroxy-cyclopropanecarboxylic acid methyl ester (1.1 6 gm, 10 mmol) was dissolved in 10 ml of tetrahydrofuran and cooled under a nitrogen atmosphere to 0° C. Sodium hydride (0.52 gm, 60% oil dispersion) was added portionwise followed by lodomethane (1 ml) and stirred for 18 hrs. The reaction mixture was quenched with ammonium chloride and extracted with ethylacetate to obtain 2 gm of title product. (MH+=130)

reactant | 1-Hydroxy-cyclopropanecarboxylic acid methyl ester | 10 mmol, 6 gm | COC(=O)C1(CC1)O | C5H8O3
reactant | Sodium hydride | 0.52 gm | [H-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-Methoxy-cyclopropanecarboxylic acid methyl ester | 2 gm | COC(=O)C1(CC1)OC | C6H10O3
